US06861419B2
3-Hydroxy-cyclohex-2-enone (1.08 g, 9.64 mmol) was combined with methylene chloride (10 mL) in a 250 mL flask and acetic acid (1.4 eq, 13.75 mmol, 0.78 mL) was added to the mixture. The mixture was cooled in an ice bath and dicyclohexylcarbodiimide (1.3 eq, 12 mmol, 2.5 g) was added portionwise, followed by the addition of 4-(dimethylamino)pyridine (0.05 eq, 0.45 mmol, 50 mg). A sufficient amount of methylene chloride was added to ensure easy stirring and the reaction was monitored by TLC (silica gel, hexane-ethyl acetate-methylene chloride-acetone (3:3:3:1 v/v)), HPLC and LCMS and the intermediate acetic acid 3-oxo-cyclohex-1-enyl ester was formed. The mixture was stirred overnight at room temperature and then toluene (20 mL) was added. The mixture heated to 60° C. and after 72 hours the mixture was filtered, concentrated and purified by flash column chromatography to provide 2-acetyl-3-hydroxy-cyclohex-2-enone (1.19 g, 80%) as a colorless liquid. LCMS: MH+ 154.8.

reactant | 3-Hydroxy-cyclohex-2-enone | 9.64 mmol, 1.08 g | OC1=CC(CCC1)=O | C6H8O2
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | acetic acid | 13.75 mmol, 0.78 mL, 1.4 eq | C(C)(=O)O | C2H4O2
reactant | dicyclohexylcarbodiimide | 12 mmol, 2.5 g, 1.3 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | 0.45 mmol, 50 mg, 0.05 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane ethyl acetate methylene chloride acetone | CCCCCC.C(C)(=O)OCC.C(Cl)Cl.CC(=O)C
product | acetic acid 3-oxo-cyclohex-1-enyl ester | O=C1C=C(CCC1)OC(C)=O | C8H10O3
